data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1821,2019,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15](=[O:16])[NH:17][CH3:18])=[N+:19]([CH3:20])[C-:21]([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][C:2](=[O:3])[C:4]#[C:5][C:6]([F:7])([F:8])[F:9]>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]([F:7])([F:8])[F:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15](=[O:16])[NH:17][CH3:18])[N:19]([CH3:20])[C:21]1([C:22]#[N:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,18.135217855047625,-47.87533811258497
3385,3845,[CH3:10][O:11][C:12](=[O:13])[N:14]=[N+:15]([CH3:16])[NH-:17].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[NH:17][N:15]([CH3:16])[N:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,34.09539439661231,0.5563088504540971
298,323,[CH2-:17][N+:18]#[C:19][CH3:20].[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:19]([CH3:20])=[N:18][CH2:17]2,water,298.15,6.131563519556448,-87.53733139680568
4802,5481,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[CH:15]=[N+:16]([CH3:17])[C-:18]([C:19]([CH3:20])=[O:21])[C:22](=[O:23])[O:24][CH3:25]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:18]([C:19]([CH3:20])=[O:21])([C:22](=[O:23])[O:24][CH3:25])[N:16]([CH3:17])[CH:15]2[C:13]([O:12][CH3:11])=[O:14],water,298.15,13.609095895403636,-19.415939442944623
1328,1457,[CH2:18]=[NH+:19][C-:20]([C:21]#[N:22])[C:23](=[O:24])[O:25][CH3:26].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH2:14][CH2:15][CH:16]1[CH2:17]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH2:14][CH2:15][CH:16]1[CH2:17]3)[CH2:18][NH:19][C:20]2([C:21]#[N:22])[C:23](=[O:24])[O:25][CH3:26],water,298.15,36.77426140935047,0.0667592958361833
2862,3180,[CH3:1][C:2](=[O:3])[C:4]1([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:11]#[C:12][C:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)([c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[CH2:26][CH2:27][CH2:28][CH2:29]1.[CH3:30][NH:31][C:32](=[O:33])[C:34](=[O+:35][C-:36]([CH3:37])[C:38](=[O:39])[NH:40][CH3:41])[C:42]([CH3:43])=[O:44]>>[CH3:1][C:2](=[O:3])[C:4]1([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[C:11]2=[C:12]([C:13]([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)([c:20]3[cH:21][cH:22][cH:23][cH:24][cH:25]3)[CH2:26][CH2:27][CH2:28][CH2:29]1)[C:34]([C:32]([NH:31][CH3:30])=[O:33])([C:42]([CH3:43])=[O:44])[O:35][C:36]2([CH3:37])[C:38](=[O:39])[NH:40][CH3:41],water,298.15,28.01701981135828,-35.64029179450669
2287,2534,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([Cl:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][O:21][C:22](=[O:23])[c:24]1[o:25][c:26](=[O:27])[c-:28]([C:29]#[N:30])[o+:31]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([Cl:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:24]1([C:22]([O:21][CH3:20])=[O:23])[O:25][C:26](=[O:27])[C:28]2([C:29]#[N:30])[O:31]1,water,298.15,19.35408123819145,-19.331174570119508
4653,5306,[CH3:9][O:10][C:11](=[O:12])[C-:13]([CH3:14])[O+:15]=[C:16]([C:17]([CH3:18])=[O:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([O:10][CH3:9])=[O:12])([CH3:14])[O:15][C:16]1([C:17]([CH3:18])=[O:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,12.105917995222493,-40.34004225802217
3362,3820,[CH3:9][C:10]([CH3:11])=[N+:12]([CH3:13])[C-:14]([C:15]#[N:16])[C:17]#[N:18].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[C:14]([C:15]#[N:16])([C:17]#[N:18])[N:12]([CH3:13])[C:10]1([CH3:9])[CH3:11],water,298.15,30.82831081646902,-9.241444601714056
4531,5171,[C:11](#[N+:12][CH-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:11]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)=[N:12][CH:13]2[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,19.546903926994453,-39.038530781432016
2832,3147,[CH3:13][C-:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[N+:21]([CH3:22])=[C:23]([C:24]#[N:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[F:1][C:2]1([Br:3])[C:4]#[C:5][C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[F:1][C:2]1([Br:3])[C:4]2=[C:5]([C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:23]([C:24]#[N:25])([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[N:21]([CH3:22])[C:14]2([CH3:13])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,18.50541929003968,-38.72000099685791
